US06821531B2
Preparation of Acetaminophen/Aspirin Tablets
320 mg of acetaminophen or aspirin (USP Powder, CAS-50-78-2), 175 mg of microfibrillated/powdered cellulose or microcrystalline cellulose (Avicel PH-102), and 5 mg of magnesium stearate were homogenously mixed and then compressed on a Carver Press using a 10-mm die and punches and a pressure of 4000 lbs and a dwell time of 1 min. The hardness and disintegration times of tablets are presented in Table 3.

reactant | acetaminophen | 320 mg | CC(=O)NC=1C=CC(=CC1)O | C8H9NO2
reactant | aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
reactant | magnesium stearate | 5 mg | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Mg+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | Acetaminophen Aspirin | CC(=O)NC=1C=CC(=CC1)O.CC(=O)OC=1C=CC=CC1C(=O)O | InChI=1S/C9H8O4.C8H9NO2/c1-6(10)13-8-5-3-2-4-7(8)9(11)12;1-6(10)9-7-2-4-8(11)5-3-7/h2-5H,1H3,(H,11,12);2-5,11H,1H3,(H,9,10)
